CIRCUIT D:\Documents and Settings\sicard\Mes documents\software\microwind31\examples\adders\fadd.MSK
*
* IC Technology: CMOS 65nm general purpose - 8 Metal copper - strain - SiON oxide
*
VDD 1 0 DC 1.00
VA 16 0 DC 0 PULSE(0.00 1.00 0.48N 0.02N 0.02N 0.48N 1.00N)
VCarryIn 17 0 DC 0 PULSE(0.00 1.00 1.98N 0.02N 0.02N 1.98N 4.00N)
VB 18 0 DC 0 PULSE(0.00 1.00 0.98N 0.02N 0.02N 0.98N 2.00N)
*
* List of nodes
* "Sum" corresponds to n°3
* "N4" corresponds to n°4
* "N5" corresponds to n°5
* "CarryOut" corresponds to n°7
* "N8" corresponds to n°8
* "N9" corresponds to n°9
* " xor2_w4" corresponds to n°11
* "A" corresponds to n°16
* "CarryIn" corresponds to n°17
* "B" corresponds to n°18
*
* MOS devices
MN1 0 4 3 0 N1  W= 0.14U L= 0.07U
MN2 11 17 4 0 N1  W= 0.14U L= 0.07U
MN3 0 11 5 0 N1  W= 0.14U L= 0.07U
MN4 0 10 7 0 N1  W= 0.14U L= 0.07U
MN5 10 18 14 0 N1  W= 0.14U L= 0.07U
MN6 14 16 10 0 N1  W= 0.14U L= 0.07U
MN7 0 17 14 0 N1  W= 0.14U L= 0.07U
MN8 15 18 0 0 N1  W= 0.14U L= 0.07U
MN9 10 16 15 0 N1  W= 0.14U L= 0.07U
MN10 0 12 11 0 N1  W= 0.14U L= 0.07U
MN11 16 18 12 0 N1  W= 0.14U L= 0.07U
MN12 0 16 13 0 N1  W= 0.14U L= 0.07U
MP1 1 4 3 1 P1  W= 0.42U L= 0.07U
MP2 5 17 4 1 P1  W= 0.42U L= 0.07U
MP3 1 11 5 1 P1  W= 0.42U L= 0.07U
MP4 1 10 7 1 P1  W= 0.42U L= 0.07U
MP5 9 18 8 1 P1  W= 0.42U L= 0.07U
MP6 10 16 9 1 P1  W= 0.42U L= 0.07U
MP7 8 17 10 1 P1  W= 0.42U L= 0.07U
MP8 1 18 8 1 P1  W= 0.42U L= 0.07U
MP9 8 16 1 1 P1  W= 0.42U L= 0.07U
MP10 1 12 11 1 P1  W= 0.42U L= 0.07U
MP11 13 18 12 1 P1  W= 0.42U L= 0.07U
MP12 1 16 13 1 P1  W= 0.42U L= 0.07U
*
C2 1 0  3.560fF
C3 3 0  0.381fF
C4 4 0  0.350fF
C5 5 0  0.335fF
C7 7 0  0.328fF
C8 8 0  0.506fF
C9 9 0  0.089fF
C10 10 0  0.552fF
C11 11 0  0.727fF
C12 12 0  0.350fF
C13 13 0  0.335fF
C14 14 0  0.251fF
C15 15 0  0.045fF
C16 16 0  0.546fF
C17 17 0  0.433fF
C18 18 0  0.467fF
*
*
* n-MOS BSIM4 :
* low leakage
.MODEL N1 NMOS LEVEL=14 VTHO=0.35 U0=0.055 TOXE= 1.1E-9 LINT=0.010U 
+K1 =0.450 K2=0.100 DVT0=2.000
+DVT1=0.750 LPE0=0.200e-9 ETA0=0.080
+NFACTOR=  1.0 U0=0.055 UA=7.000e-15
+WINT=0.005U LPE0=0.200e-9 
+KT1=-0.050 UTE=-1.800 VOFF=0.010
+XJ=0.150U NDEP=170.000e15 PCLM=1.100
+CGSO=100.0p CGDO=100.0p
+CGBO= 60.0p
*
* p-MOS BSIM4:
* low leakage
.MODEL P1 PMOS LEVEL=14 VTHO=-0.32 U0=0.027 TOXE= 1.1E-9 LINT=0.010U 
+K1 =0.500 K2=0.100 DVT0=2.000
+DVT1=0.650 LPE0=0.200e-9 ETA0=0.080
+NFACTOR=  1.1 U0=0.027 UA=4.800e-15
+WINT=0.005U LPE0=0.200e-9 
+KT1=-0.060 UTE=-1.800 VOFF=0.010
+XJ=0.150U NDEP=170.000e15 PCLM=0.700
+CGSO=100.0p CGDO=100.0p
+CGBO= 60.0p
*
* Transient analysis
*
* (Winspice)
.options temp=27.0
.control
tran 0.1N 2.00N
print  V(7) V(3) V(16) V(18) V(17) > out.txt
plot  V(7) V(3) V(16) V(18) V(17)
.endc
.END
